US05278343
A 100-ml pressure-proof glass reaction vessel was charged with 2.92 g (0.02 mole) of 1-tetralone, 2.59 g (0.02 mole) of di-n-butylamine, 1.20 g (0.02 mole) of acetic acid and 15 ml of toluene. To the mixture 0.974 g (0.012 mole) of an 37% aqueous formaldehyde solution was added and the vessel was sealed and heated up to 90° C. After maintaining the temperature at 90° C. for 30 minutes, the vessel was cooled to room temperature. The contents were separated by addition of 5 ml of water, and the water layer was washed off with a 50% aqueous acetic acid solution. The toluene layer was further washed with a 10% aqueous hydrochloric acid, saturated aqueous NaHCO3 solution and saturated aqueous sodium chloride solution, to give a solution of 2-methylene-1-tetralone in toluene. The reaction mixture was analyzed by GLC and its composition was found to be 1.45 g of 2-methylene-1-tetralone and 1.16 g of unreacted 1-tetralone (the conversion of 1-tetralone: 60.2%; selectivity: 82.1%).

reactant | 1-tetralone | 0.02 mole, 2.92 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | di-n-butylamine | 0.02 mole, 2.59 g | C(CCC)NCCCC | C8H19N
reactant | acetic acid | 0.02 mole, 1.20 g | C(C)(=O)O | C2H4O2
reactant | formaldehyde | C=O | CH2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methylene-1-tetralone | C=C1C(C2=CC=CC=C2CC1)=O | C11H10O
